US06576643B2
e) 10,11-Dihydro-3-methoxy-6-methyl-5H-dibenzo[a,d]cyclohepten-10-one
According to the procedure of Preparation 10 (d), except substituting 4-methoxy-2-(2-methylbenzyl)phenylacetic acid for the 2-benzyl4-methoxyphenylacetic acid, the title compound was obtained as a white solid following silica gel chromatography (6% EtOAc/hexanes): MS (ES) m/e 253.0 (M+H)+.

reactant | 4-methoxy-2-(2-methylbenzyl)phenylacetic acid | COC1=CC(=C(C=C1)CC(=O)O)CC1=C(C=CC=C1)C | C17H18O3
reactant | 2-benzyl4-methoxyphenylacetic acid | C(C1=CC=CC=C1)C1=C(C=CC(=C1)OC)CC(=O)O | C16H16O3
product | 10,11-Dihydro-3-methoxy-6-methyl-5H-dibenzo[a,d]cyclohepten-10-one | COC=1C=CC2=C(CC3=C(C(C2)=O)C=CC=C3C)C1 | C17H16O2
